US07858665B2
A) Synthesis of 1-(chloromethoxycarbonylaminomethyl)cyclohexaneacetic acid
To a solution of 1-(aminomethyl)cyclohexaneacetic acid (gabapentin, 2.00 g, 11.68 mmol) in a water (30 ml) and dioxane (20 ml) mixture, diisopropylethylamine was added (4.06 ml, 23.36 mmol). In the solution thus obtained, and cooled in a water/ice bath, chloromethyl chloroformiate (1.25 ml, 14.02 mmol) dissolved in dioxane (20 ml) was slowly dropped. At the end of adding, the mixture was allowed to stand 3 hours at room temperature. The mixture was then poured in a 4% hydrochloric acid solution to sink the end pH value to about 2. Ethyl acetate was added and the organic phase<was dried under vacuum to give 2.87 g of a clear, yellow oil that was employed in the next reaction without further purification.

reactant | 1-(aminomethyl)cyclohexaneacetic acid | 11.68 mmol, 2.00 g | NCC1(CCCCC1)CC(=O)O | C9H17NO2
reactant | water | 30 ml | O | H2O
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(chloromethoxycarbonylaminomethyl)cyclohexaneacetic acid | ClCOC(=O)NCC1(CCCCC1)CC(=O)O | C11H18ClNO4
